US07141671B2
(e) Biphenyl-2-ylcarbamic Acid 1-(9-{Benzyl-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethyl]amino}nonyl)-piperidin-4-yl Ester
To a 300 mL round-bottomed flask was added 5-[(R)-2-benzylamino-1-(tert-butyldimethylsilanyloxy)ethyl]-8-benzyloxy-1H-quinolin-2-one (5 g, 9.73 mmol), dichloromethane (100 mL) and glacial acetic acid (0.6 mL, 10 mmol). This mixture was cooled to 0° C. using an ice bath and biphenyl-2-ylcarbamic acid 1-(9-oxononyl)piperidin-4-yl ester (4.6 g, 9.73 mmol) was added with stirring. This mixture was stirred at 0° C. for 30 minutes and then sodium triacetoxyborohydride (6.15 g, 29 mmol) was added in portions over 15 minutes. The reaction mixture was stirred at 0° to 10° C. for 2 hours and then aqueous saturated sodium bicarbonate solution (50 mL) was added and this mixture was stirred for 15 minutes. The layers were then separated and the organic layer was washed with 5% aqueous sodium chloride solution (50 mL), dried (MgSO4), filtered and concentrated under reduced pressure to afford the title intermediate (8.5 g, 80% purity by HPLC), which was used without further purification.

reactant | 5-[(R)-2-benzylamino-1-(tert-butyldimethylsilanyloxy)ethyl]-8-benzyloxy-1H-quinolin-2-one | 9.73 mmol, 5 g | C(C1=CC=CC=C1)NC[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C31H38N2O3Si
reactant | acetic acid | 10 mmol, 0.6 mL | C(C)(=O)O | C2H4O2
reactant | biphenyl-2-ylcarbamic acid 1-(9-oxononyl)piperidin-4-yl ester | 9.73 mmol, 4.6 g | O=CCCCCCCCCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O | C27H36N2O3
reactant | sodium triacetoxyborohydride | 29 mmol, 6.15 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Biphenyl-2-ylcarbamic Acid 1-(9-{Benzyl-[(R)-2-(8-benzyloxy-2-oxo-1,2-dihydroquinolin-5-yl)-2-(tert-butyldimethylsilanyloxy)ethyl]amino}nonyl)-piperidin-4-yl Ester | 8.5 g, 80% | C(C1=CC=CC=C1)N(CCCCCCCCCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)OCC1=CC=CC=C1)=O | C58H74N4O5Si
